US04670592
A solution of 2-(phenylthiomethyl)glutaronitrile (3.0 g.) in tetrahydrofuran (30 ml.) was stirred under an argon atmosphere while adding 10M borane-dimethyl sulphide complex (3 ml.), and the mixture was stirred at room temperature for 48 hours. The resulting gelatinous mass was treated with methanol (50 ml.) added over 1 hour and the mixture was stirred until a clear solution was obtained. The solution was acidified with a solution of hydrogen chloride in diethyl ether and then evaporated to dryness. The residue was partitioned between water and diethyl ether, and the aqueous phase was basified with 10N aqueous sodium hydroxide and then extracted three times with ether. The combined ether extracts were dried and then evaporated to dryness. The residue was purified by column chromatography on silica gel (150 g.) eluting with a mixture of ethyl acetate/methanol/concentrated ammonia, 6:1:0.5 (v/v) to give 2-(phenylthiomethyl)pentane-1,5-diamine characterised as the dihydrochloride, m.p. 166°-169°, after crystallisation from ethanol.

reactant | 2-(phenylthiomethyl)glutaronitrile | 3.0 g | C1(=CC=CC=C1)SCC(C#N)CCC#N | C12H12N2S
reactant | methanol | 50 ml | CO | CH4O
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(phenylthiomethyl)pentane-1,5-diamine | C1(=CC=CC=C1)SCC(CN)CCCN | C12H20N2S
